US05086055
5-[4-(3-Trifluoromethylphenyl)-1-Piperazinyl]Methyl-2-Oxazolidinone
Following the procedure of Example 35, the title compound was prepared from 5-chloromethyl-2-oxazolidinone and 1-(3-trifluoromethylphenyl)piperazine, mp 122°-124° C.

reactant | 5-chloromethyl-2-oxazolidinone | ClCC1CNC(O1)=O | C4H6ClNO2
reactant | 1-(3-trifluoromethylphenyl)piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
product | 5-[4-(3-Trifluoromethylphenyl)-1-Piperazinyl]Methyl-2-Oxazolidinone | FC(C=1C=C(C=CC1)N1CCN(CC1)CC1CNC(O1)=O)(F)F | C15H18F3N3O2
